US07335658B2
6-[4-(2-TRIFLUOROMETHYLCYCLOPROPANECARBONYL)PIPERAZIN-1-YL]-PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE
Following the procedure of Example 9, making variations only as required to use 2-trifluoromethylcyclopropanecarboxylic acid in place of 2,5-dichlorobenzoic acid to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide, the title compound was obtained as a white powder (30.9% yield). 1H NMR (300 MHz, CDCl3) δ 8.03, 7.98, 7.00, 3.97-3.57, 2.20, 1.65, 1.50, 1.26, 0.75, 0.46, 0.09. MS (ES+) m/z 412 (M+1).

reactant | 2-trifluoromethylcyclopropanecarboxylic acid | FC(C1C(C1)C(=O)O)(F)F | C5H5F3O2
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCNCC1 | C14H21N5O
product | 6-[4-(2-TRIFLUOROMETHYLCYCLOPROPANECARBONYL)PIPERAZIN-1-YL]-PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(=O)C1C(C1)C(F)(F)F | C19H24F3N5O2
